US05612352
A solution of potassium tert-butoxide (18.27 ml) in 1:1 (v/v) mixture of dimethoxyethane and ethanol (100 ml) was added slowly to a stirred mixture of 3-quinuclidinone (8.14 g), tosylmethylisocyanate (16.53 g) in dry ethanol (6.5 ml), and dry dimethoxyethane (228 ml) under an atmosphere of argon whilst maintaining the temperature below 10° C. The reaction mixture was allowed to warm to ambient temperature and stirred at this temperature for 30 minutes. The reaction mixture was then stirred at 40° C. for 3 hours. The reaction mixture was cooled, filtered and the filtrate evaporated. The residue was purified by flash column chromatography on alumina (Brockmann Grade I) using a 2:98 (v/v) mixture of methanol/ethyl acetate as eluant to give 3-cyanoquinuclidine (6.6 g), microanalysis, found: C, 67.6; H, 8.5; N, 18.7%; C8H12N2 requires: C, 70.6; H, 8.8; N, 20.6%; NMR (CDCl3): 1.4-1.7 (3H, m), 1.85-2.0 (1H, m) 2.0-2.1 (1H, m) and 2.6-3.4 (7H, m); m/z 137 (M+H).

reactant | potassium tert-butoxide | 18.27 ml | CC(C)([O-])C.[K+]
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | 3-quinuclidinone | 8.14 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | tosylmethylisocyanate | 16.53 g | S(=O)(=O)(C1=CC=C(C)C=C1)CN=C=O | C9H9NO3S
reactant | dimethoxyethane | 228 ml | C(OC)COC | C4H10O2
solvent | ethanol | 6.5 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-cyanoquinuclidine | 6.6 g | C(#N)C1CN2CCC1CC2 | C8H12N2
